US05021538
A polyol (pentaerythritol) ester of a phenol-rosin (nonylphenol-tall oil rosin) condensate was prepared in the following manner. To a nitrogen purged reactor and under a continuous nitrogen flow of 0.003 pounds of nitrogen per pound of rosin per hour were added 11,100 pounds of tall oil rosin, 1,120 pounds of nonylphenol, and 14 pounds of lime. At a temperature of 170° C. and with stirring, 1,270 pounds of formalin (37% aqueous formaldehyde) were added over the course of 4 hours. Pentaerythritol (1,400 pounds) was then added, and the reaction temperature was raised to 280° C. where it was held until the acid number was less than 20. The pentaerythritol ester of the nonylphenol-rosin condensate had a softening point of 113° C., an acid number of 17, and a Gardner viscosity of Z3-- as measured at 25° C. and at 60% resin solids in a commercially available high-boiling hydrocarbon solvent known as Magiesol 47.

reactant | rosin | C1=CC=C(C=C1)/C=C/CO[C@H]2[C@@H]([C@H]([C@@H]([C@H](O2)CO)O)O)O | C15H20O6
reactant | nonylphenol | 1,120 pounds | CCCCCCCCCC=1C=CC(=CC1)O | C15H24O
reactant | formalin | 1,270 pounds | C=O | CH2O
reactant | Pentaerythritol | 1,400 pounds | OCC(CO)(CO)CO | C5H12O4
reactant | nonylphenol rosin | CCCCCCCCCC=1C=CC(=CC1)O.C1=CC=C(C=C1)/C=C/CO[C@H]2[C@@H]([C@H]([C@@H]([C@H](O2)CO)O)O)O
product | phenol rosin | C1(=CC=CC=C1)O.C1=CC=C(C=C1)/C=C/CO[C@H]2[C@@H]([C@H]([C@@H]([C@H](O2)CO)O)O)O | InChI=1S/C15H20O6.C6H6O/c16-9-11-12(17)13(18)14(19)15(21-11)20-8-4-7-10-5-2-1-3-6-10;7-6-4-2-1-3-5-6/h1-7,11-19H,8-9H2;1-5,7H/b7-4+;/t11-,12-,13+,14-,15-;/m1./s1
